US05387603
To a solution of 1-acetyl-5-propionylindoline (1.65 g) in tetrahydrofuran (150 ml) were added concentrated sulfuric acid (5 drops) and pyrrolidone hydrotribromide (4.14 g), and the mixture was stirred at room temperature for 16 hours. The insoluble materials were filtered off, and the filtrate was concentrated under reduced pressure. The residue was extracted with ethyl acetate, and the extract was washed with water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethanol to give 1.78 g of 1-acetyl-5-(2-bromopropionyl)indoline melting at 140°-142° C.

reactant | 1-acetyl-5-propionylindoline | 1.65 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CC)=O | C13H15NO2
reactant | pyrrolidone hydrotribromide | 4.14 g | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 1-acetyl-5-(2-bromopropionyl)indoline | 1.78 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(C(C)Br)=O | C13H14BrNO2
